US05985901
Step D: Ethyl 2-(4-amino-3-bromophenyl)-2-methylpropionate
To a solution of ethyl 2-(4-aminophenyl)-2-methylpropionate (4.74 g in 40 mL dry methylene chloride) at 0° C. was added 4.08 g of N-bromosuccinimide and the mixture stirred at low temperature. After 1 hour, the mixture was warmed to room temperature and concentrated in vacuo. Purification of the residue by flash chromatography on silica gel (hexane:ethyl acetate, 9:1; then 8:2) gave the title compound, 5.46 g.

reactant | N-bromosuccinimide | 4.08 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | ethyl 2-(4-aminophenyl)-2-methylpropionate | 40 mL, 4.74 g | NC1=CC=C(C=C1)C(C(=O)OCC)(C)C | C12H17NO2
product | Ethyl 2-(4-amino-3-bromophenyl)-2-methylpropionate | NC1=C(C=C(C=C1)C(C(=O)OCC)(C)C)Br | C12H16BrNO2
